US08349880B2
N-(3,5-difluoro-4-(3-methyl-1H-1,2,4-triazol-1-yl)phenyl)-9-(4-(trifluoromethoxy)phenyl)-6,7,8,9-tetrahydro-5H-[1,2,4]triazolo[1,5-a]azepin-2-amine
A solution of 5-(5-chloro-1-(4-(trifluoromethoxy)phenyl)pentyl)-N-(3,5-difluoro-4-(3-methyl-1H-1,2,4-triazol-1-yl)phenyl)-1H-1,2,4-triazol-3-amine (1.24 g, 2.30 mmol), sodium iodide (1.72 g, 11.5 mmol), and diisopropylethylamine (2.00 mL, 11.5 mmol) in acetone (50 mL) was heated in a sealed vessel at 100° C. for 6 h. The reaction was concentrated in vacuo. The crude product was purified using silica gel column chromatography (70% EtOAc/chloroform) to afford 400 mg of the titled compound. The solid was recrystallized from EtOAc/Hex to afford 230 mg (19% yield) of the titled compound as a crystalline white solid. LC-MS (M+H)+ 506.1. 1H NMR (500 MHz, CHLOROFORM-d) δ ppm 8.11 (1H, s), 7.13-7.23 (6H, m), 6.92 (1 H, s), 4.22-4.33 (3 H, m), 2.49 (3 H, s), 2.15-2.27 (1 H, m), 2.05-2.13 (1H, m), 1.92-2.01 (2 H, m, J=14.8, 9.8, 7.2, 7.2 Hz), 1.82-1.90 (2 H, m).

reactant | 5-(5-chloro-1-(4-(trifluoromethoxy)phenyl)pentyl)-N-(3,5-difluoro-4-(3-methyl-1H-1,2,4-triazol-1-yl)phenyl)-1H-1,2,4-triazol-3-amine | 2.30 mmol, 1.24 g | ClCCCCC(C1=CC=C(C=C1)OC(F)(F)F)C1=NC(=NN1)NC1=CC(=C(C(=C1)F)N1N=C(N=C1)C)F | C23H21ClF5N7O
reactant | sodium iodide | 11.5 mmol, 1.72 g | [I-].[Na+]
reactant | diisopropylethylamine | 11.5 mmol, 2.00 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | acetone | 50 mL | CC(=O)C | C3H6O
product | N-(3,5-difluoro-4-(3-methyl-1H-1,2,4-triazol-1-yl)phenyl)-9-(4-(trifluoromethoxy)phenyl)-6,7,8,9-tetrahydro-5H-[1,2,4]triazolo[1,5-a]azepin-2-amine | 400 mg | FC=1C=C(C=C(C1N1N=C(N=C1)C)F)NC1=NN2C(C(CCCC2)C2=CC=C(C=C2)OC(F)(F)F)=N1 | C23H20F5N7O
